US06589970B2
1-Benzyl-1H-indole-3-carbonyl chloride, prepared in the previous step, in 50 mL of anhydrous THF was added dropwise under nitrogen over 2 h to a mixture of 6-methylaminomethyl-naphthalen-2-ol (2.5 g, 13.37 mmol), prepared in step 1 of Example 32, and triethylamine (1.86 mL, 13.37 mmol) in 300 mL of anhydrous THF at room temperature. The reaction stirred for 17.5 h (overnight). A trace amount of solid was removed by filtration and the filtrate was concentrated under reduced pressure to give a brown oil. The oil was diluted with ethyl acetate, extracted two times with 1N HCl, dried (MgSO4) and the solvent removed under reduced pressure to give 1-benzyl-1H-indole-3-carboxylic acid (6-hydroxy-naphthalen-2-ylmethyl)-methyl-amide (5.83 g, 100%) as a brown foam, MS m/z: 421 [M+H]+.

reactant | 1-Benzyl-1H-indole-3-carbonyl chloride | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C(=O)Cl | C16H12ClNO
reactant | 6-methylaminomethyl-naphthalen-2-ol | 13.37 mmol, 2.5 g | CNCC=1C=C2C=CC(=CC2=CC1)O | C12H13NO
reactant | triethylamine | 13.37 mmol, 1.86 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-benzyl-1H-indole-3-carboxylic acid (6-hydroxy-naphthalen-2-ylmethyl)-methyl-amide | 5.83 g, 100% | OC=1C=C2C=CC(=CC2=CC1)CN(C(=O)C1=CN(C2=CC=CC=C12)CC1=CC=CC=C1)C | C28H24N2O2
